US09447044B2
Step A: 6-isopropylsulfanyl-pyridine-2-carboxylic acid methyl ester
6-Bromo-pyridine-2-carboxylic acid methyl ester (0.15 g, 0.69 mmol) was added with DMF (2.3 mL), Cs2CO3(0.45 g, 1.38 mmol) and 2-propanethiol (0.064 mL, 0.69 mmol) in turn, and the mixture was stirred at room temperature for 18 hours. After the termination of the reaction, the reactant was filtered and concentrated under reduced pressure to obtain the title compound (0.13 g, 88%).

reactant | 6-Bromo-pyridine-2-carboxylic acid methyl ester | 0.69 mmol, 0.15 g | COC(=O)C1=NC(=CC=C1)Br | C7H6BrNO2
reactant | Cs2CO3 | 1.38 mmol, 0.45 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-propanethiol | 0.69 mmol, 0.064 mL | CC(C)S | C3H8S
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
product | 6-isopropylsulfanyl-pyridine-2-carboxylic acid methyl ester | 0.13 g, 88% | COC(=O)C1=NC(=CC=C1)SC(C)C | C10H13NO2S
